US04871765
11.6 g of diphenyl methanesulfonylimidocarbonate was dissolved in 40 ml of methylene chloride. With ice-cooling, thereto was added 15 g of 2-[[5-[N-methyl-N-(2,2,2-trichloroethoxycarbonyl)aminomethyl]-2furyl]methylthio]ethylamine. The mixture was stirred for 10 minutes. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography (eluant: benzene:ethyl acetate=2:1) to obtain 17.8 g (yield: 78%) of oily N-methanesulfonyl-N'-[2-[[5-[N-methyl-N-(2,2,2-trichloroethoxycarbonyl)aminomethyl]-2furyl]methylthio]ethyl]-O-phenylisourea.

reactant | diphenyl methanesulfonylimidocarbonate | 11.6 g | CS(=O)(=O)N=C(OC1=CC=CC=C1)OC1=CC=CC=C1 | C14H13NO4S
reactant | 2-[[5-[N-methyl-N-(2,2,2-trichloroethoxycarbonyl)aminomethyl]-2furyl]methylthio]ethylamine | 15 g | CN(C(=O)OCC(Cl)(Cl)Cl)CC1=CC=C(O1)CSCCN | C12H17Cl3N2O3S
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-methanesulfonyl-N'-[2-[[5-[N-methyl-N-(2,2,2-trichloroethoxycarbonyl)aminomethyl]-2furyl]methylthio]ethyl]-O-phenylisourea | 17.8 g, yield: 78% | CS(=O)(=O)NC(OC1=CC=CC=C1)=NCCSCC=1OC(=CC1)CN(C(=O)OCC(Cl)(Cl)Cl)C | C20H24Cl3N3O6S2
